US06090843
[6-Hydroxy-2-(4-Hydroxyphenyl)benzo[b]thiophen-3-yl][4-(2-Hydroxy-3-Pentylaminopropoxy)phenyl]methanone
[6-Methoxy-2-(4-methoxyphenyl)benzo[b]thiophen-3-yl][4-(2-methoxy-3-hexylaminopropoxy)phenyl]methanone (340 mg, 0.62 mmol) was converted to 200 mg of the title compound by the procedure of Example 32 using 0.23 mL (3.1 mmol) of ethanethiol 660 mg (5.0 mmol) of aluminum chloride.

reactant | [6-Methoxy-2-(4-methoxyphenyl)benzo[b]thiophen-3-yl][4-(2-methoxy-3-hexylaminopropoxy)phenyl]methanone | 0.62 mmol, 340 mg | COC=1C=CC2=C(SC(=C2C(=O)C2=CC=C(C=C2)OCC(CNCCCCCC)OC)C2=CC=C(C=C2)OC)C1 | C33H39NO5S
reactant | ethanethiol | 3.1 mmol, 0.23 mL, 660 mg | C(C)S | C2H6S
reactant | aluminum chloride | [Cl-].[Al+3].[Cl-].[Cl-]
product | [6-Hydroxy-2-(4-Hydroxyphenyl)benzo[b]thiophen-3-yl][4-(2-Hydroxy-3-Pentylaminopropoxy)phenyl]methanone | 200 mg, Yield: 62% | OC=1C=CC2=C(SC(=C2C(=O)C2=CC=C(C=C2)OCC(CNCCCCC)O)C2=CC=C(C=C2)O)C1 | C29H31NO5S
